US06605617B2
5-(4Methylpiperazinyl)-2-nitrobenzenecarbonitrile
5-Fluoro-2-nitrobenzenecarbonitrile (1.02 eq) and N-methylpiperazine, (1.0 eq) were dissolved in NMP. Triethylamine (2.1 eq) was added, and the resulting solution heated at 100° C. for 1 hour. The solution was cooled to room temperature and poured into H2O. A precipitate formed which was filtered to yield the desired product as a green solid. LC/MS m/z 247.3 (MH+), Rf 1.46 minutes.

reactant | 5-Fluoro-2-nitrobenzenecarbonitrile | 1.02 eq | FC=1C=CC(=C(C1)C#N)[N+](=O)[O-] | C7H3FN2O2
reactant | N-methylpiperazine | 1.0 eq | CN1CCNCC1 | C5H12N2
reactant | Triethylamine | 2.1 eq | C(C)N(CC)CC | C6H15N
reactant | H2O | O | H2O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 5-(4Methylpiperazinyl)-2-nitrobenzenecarbonitrile | CN1CCN(CC1)C=1C=CC(=C(C1)C#N)[N+](=O)[O-] | C12H14N4O2
